US08466289B2
Synthesis of Intermediate 8-(1-Allyl-cyclopropanesulfonylamino)-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-5d)
1-Allyl-cyclopropanesulfonyl chloride (259 mg, 0.001 mol) was added to a stirred solution of 8-amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (350 mg, 0.001 mol) in pyridine (3 mL). The resulting mixture was stirred at room temperature for 12 hours. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was concentrated and partitioned between ethylacetate and water. The organic layer concentrated to afford the crude product. Purification by column chromatography on silica gel (75% ethylacetate in hexane) afforded 125 mg of the product (27.7% yield).

reactant | 1-Allyl-cyclopropanesulfonyl chloride | 0.001 mol, 259 mg | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
reactant | 8-amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 0.001 mol, 350 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)N | C19H22FIN4O3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 8-(1-Allyl-cyclopropanesulfonylamino)-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 125 mg, 27.7% yield | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)NS(=O)(=O)C2(CC2)CC=C | C25H30FIN4O5S
